US07601716B2
7-[2-(4-Methylpiperazin-1-yl)pyridin-4-yl]-1-[5-(trifluoromethyl)furan-2-ylmethyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
7-Iodo-1-[5-(trifluoromethyl)furan-2-ylmethyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (60 mg) was reacted with 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine as in General Procedure 4A to give the title compound as a beige foam (30% yield). M.p. (foam), 1H-NMR (CDCl3, 400 MHz) δ 2.31-3.36 (m, 4H), 2.38-2.53 (m, 4H), 3.42-3.48 (m, 2H), 3.48-3.58 (m, 1H), 3.61-3.66 (m, 2H), 3.74-3.84 (m, 2H), 5.02 (bs, 1H), 6.31 (s, 1H), 6.74 (s, 1H), 6.93 (s, 1H), 7.41-7.50 (m, 3H), 7.73 (s, 1H).

reactant | 7-Iodo-1-[5-(trifluoromethyl)furan-2-ylmethyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 60 mg | IC1=CC2=C(NCCN2CC=2OC(=CC2)C(F)(F)F)N=C1 | C13H11F3IN3O
reactant | 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | CN1CCN(CC1)C1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
product | 7-[2-(4-Methylpiperazin-1-yl)pyridin-4-yl]-1-[5-(trifluoromethyl)furan-2-ylmethyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 30% yield | CN1CCN(CC1)C1=NC=CC(=C1)C1=CC2=C(NCCN2CC=2OC(=CC2)C(F)(F)F)N=C1 | C23H25F3N6O
